US04308391
Utilizing the procedure of Example 1, a mixture of 1.97 g (0.01 mol) of ethyl 2-chloro-4-methyl-pentanoate, 0.76 g (0.01 mol) of thiourea and 30 ml of ethanol was held at reflux for 18 hours. Ethanol was removed under reduced pressure. The residue was crystallized from hexane. The solid precipitates were dissolved in ether. The ether solution was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from benzene-ether to give 0.85 g (39.6%) of ethyl 2-amino-4-isopropyl-5-thiazolecarboxylate, m.p. 173°-176° C.

reactant | ethyl 2-chloro-4-methyl-pentanoate | 0.01 mol, 1.97 g | ClC(C(=O)OCC)CC(C)C | C8H15ClO2
reactant | thiourea | 0.01 mol, 0.76 g | NC(=S)N | CH4N2S
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 2-amino-4-isopropyl-5-thiazolecarboxylate | 0.85 g, 39.6% | NC=1SC(=C(N1)C(C)C)C(=O)OCC | C9H14N2O2S
